US08802728B2
Stir a mixture of bicyclo[3.2.1]octan-3-one (5.2 g, 41.9 mmol), (HCHO)n (1.51 g, 50.3 mmol), dimethylamine hydrochloride (3.42 g, 41.9 mmol) and 0.5 mL of conc. HCl in MeCN (50 mL) at 80° C. for 2 hours. After removal of the solvent under vacuum, dissolve the residue in H2O (20 mL) and wash with EtOAc (20 mL×3). Basify the aqueous solution with NaOH to pH=10. Extract the resultant aqueous mixture with EtOAc (60 mL×3). The combined organic layers are washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated under vacuum to give crude 2-dimethylaminomethyl-bicyclo[3.2.1]octan-3-one as brown oil (5.9 g, yield: 78.7%). MS (m/z): 182 (M+1).

reactant | bicyclo[3.2.1]octan-3-one | 41.9 mmol, 5.2 g | C12CC(CC(CC1)C2)=O | C8H12O
reactant | dimethylamine hydrochloride | 41.9 mmol, 3.42 g | Cl.CNC
reactant | HCl | 0.5 mL | Cl | ClH
reactant | MeCN | 50 mL | CC#N | C2H3N
product | 2-dimethylaminomethyl-bicyclo[3.2.1]octan-3-one | 5.9 g, yield: 78.7% | CN(C)CC1C2CCC(CC1=O)C2 | C11H19NO
